US07026515B2
Preparation of (4R)-N-benzyloxycarbonyl-4-methyl-5-oxazolidinone
In toluene (190 mL) were suspended benzyloxycarbonyl-D-alanine (19.3 g), paraformaldehyde (6.56 g) and p-toluenesulfonic acid monohydrate (0.17 g), and the mixture was heated at reflux while removing water produced. At the end of the reaction, the mixture was cooled to room temperature, and washed with saturated aqueous sodium hydrogen carbonate solution and saturated saline. The toluene solution was dried over anhydrous sodium sulfate. The solvent was evaporated under a reduced pressure. The precipitated crystals were filtered to give the title compound (17.4 g) as white crystals in a yield of 85%.

reactant | benzyloxycarbonyl-D-alanine | 19.3 g | C(C1=CC=CC=C1)OC(=O)N[C@H](C)C(=O)O | C11H13NO4
reactant | paraformaldehyde | 6.56 g | C=O | CH2O
solvent | toluene | 190 mL | C1(=CC=CC=C1)C | C7H8
catalyst | p-toluenesulfonic acid monohydrate | 0.17 g | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
product | (4R)-N-benzyloxycarbonyl-4-methyl-5-oxazolidinone | 17.4 g, yield of 85% | C(C1=CC=CC=C1)OC(=O)N1COC([C@H]1C)=O | C12H13NO4
